US08084448B2
C. (S)-2-Amino-3-{3-benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-phenyl}-propionic Acid Tert-butyl Ester
To a solution of (S)-3-{3-benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-phenyl}-2-tert-butoxycarbonylaminopropionic acid tert-butyl ester (760 mg, 1.15 mmol) in methylene chloride (10 mL) is added TFA (3 mL) and the mixture is stirred at RT for 45 min. The solution is carefully poured into 8% NaHCO3 solution (50 mL) and the mixture is extracted with methylene chloride. The solvent is removed under reduced pressure to give the title compound which is used immediately in the next step.

reactant | (S)-3-{3-benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-phenyl}-2-tert-butoxycarbonylaminopropionic acid tert-butyl ester | 1.15 mmol, 760 mg | C(C)(C)(C)OC([C@H](CC1=CC(=C(C=C1)N1S(N(C(C1)=O)CC[Si](C)(C)C)(=O)=O)OCC1=CC=CC=C1)NC(=O)OC(C)(C)C)=O | C32H47N3O8SSi
reactant | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | (S)-2-Amino-3-{3-benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-phenyl}-propionic Acid Tert-butyl Ester | C(C)(C)(C)OC([C@H](CC1=CC(=C(C=C1)N1S(N(C(C1)=O)CC[Si](C)(C)C)(=O)=O)OCC1=CC=CC=C1)N)=O | C27H39N3O6SSi
